Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB/cough

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:  ___ yo F with h/o COPD (not on home O2; only on albuterol
prn) and CVA in the setting of prior SI, with SOB and productive
cough.  Two weeks prior to admission, pt developed URI symptoms. 

One week PTA developed cough, productive of sputum, blood 
tinged.
On the day PTA pt developed SOB.  Also has chills, subjective
fevers, and pleuritic chest pain.  Used MDI albuterol without
improvement.

In the ED, T 102, SaO2 94% on 3L NC.  CXR with RLL opacity.  Pt
without wheeze.  Received azithro/CTX for likely CAP; admitted
for further care.

Pt also with 20 lb weight loss over 3 months.

Pt with recent R knee injury; told that she has no fracture but
still has pain (x several weeks).

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  As per HPI
CARDIAC:  [X] All normal
GI:  [X] All normal
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  As per HPI
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
10 point review of systems negative except as noted above

 
Past Medical History:
COPD
R knee pain x weeks
CVA (SI attempt by hanging ___
Heroin/cocaine use
 
Social History:
___
Family History:
No neoplasm
 
Physical Exam:
Physical Exam: afeb  130/74  64  18  97% (1L NC)
GENERAL:  NAD
Mentation:  Alert
Eyes:  NC/AT
Ears/Nose/Mouth/Throat:  MMM
Neck:  Supple
Resp:  CTA bilat; no rhonchi or wheeze
CV:  RRR
GI:  Soft, NT/ND
Skin:  No rashes
Extremities:  No edema
Lymph/Heme/Immun:  No cervical ___ noted
Neuro:
- Mental Status:  Alert & oriented x3
MSK:  R knee without effusion or tenderness; strength ___

 
Pertinent Results:
___ 09:15AM BLOOD WBC-9.3 RBC-4.00 Hgb-12.1 Hct-37.2 MCV-93 
MCH-30.3 MCHC-32.5 RDW-13.9 RDWSD-47.3* Plt ___
___ 09:20AM BLOOD Glucose-147* UreaN-11 Creat-0.9 Na-144 
K-4.2 Cl-103 HCO3-27 AnGap-14
___ 12:21AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:09AM BLOOD Lactate-1.7

FINDINGS:  
  
Increased bilateral interstitial markings suggest bilateral mild 
pulmonary 
edema.  Right lung base opacity may represent aspiration or 
pneumonia.  No 
pleural effusion or pneumothorax is seen. The cardiac and 
mediastinal 
silhouettes are unremarkable. 
  
IMPRESSION:  
  
Mild bilateral pulmonary edema.  Right lung base opacity may 
represent 
aspiration or pneumonia. 
  

The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Mild 
symmetric left ventricular hypertrophy with normal cavity size, 
and regional/global systolic function (3D LVEF = 67 %). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The ascending aorta is mildly dilated. 
The aortic arch is mildly dilated. The aortic valve leaflets 
(?#) appear structurally normal with good leaflet excursion. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. There 
is mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mildly dilated thoracic aorta. Mild mitral regurgitation. Mild 
pulmonary hypertension.
 
Brief Hospital Course:
___ yo F with COPD not on home ___, opioid use disorder on 
suboxone, presenting with several weeks of respiratory symptoms 
and findings suggestive of bacterial PNA as well as pulmonary 
edema.

Acute bacterial PNA:
COPD:
She has had per report about 2+weeks of cough, SOB, subjective 
fever with CXR findings suggestive of PNA.  Low risk for 
resistance.  She responded to antibiotics and we will complete 
treatment with Levofloxacin.  She is not in COPD flare and we 
continued albuterol prn

Pulmonary edema:
Chronic diastolic CHF: Noted on CXR now and in the past.  She 
did not have clear sxs of CHF.  She stated that she had a 
"stress" test recently that was normal.  Echo reviewed showed 
LVH and possible diastolic dysfunction.  This appeared to be 
fairly chronic.  Given her lack of symptoms and stable BP this 
was not treated.  She will follow up with her PCP for ongoing 
care

Opioid/substance use disorder:
Tobacco use:
Continued Suboxone and nicotine replacement

R knee pain:
likely chronic arthritis.  ___ consulted and provide supportive 
care, recommend outpatient ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. Gabapentin 600 mg PO TID 
4. Buprenorphine-Naloxone Film (8mg-2mg) 0.5 FILM SL QID 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
RX *albuterol sulfate [Ventolin HFA] 90 mcg ___ puffs inhaled 
every four (4) hours Disp #*1 Inhaler Refills:*0 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough  
3.  Levofloxacin 750 mg PO DAILY Duration: 5 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
4.  Aspirin 325 mg PO DAILY  
5.  Buprenorphine-Naloxone Film (8mg-2mg) 0.5 FILM SL QID  
6.  BuPROPion (Sustained Release) 150 mg PO BID  
7.  Gabapentin 600 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bacterial pneumonia
COPD
Chronic diastolic CHF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with bacterial pneumonia (infection in your 
lung).  Please complete the antibiotics as prescribed.  Please 
continue your albuterol for your breathing.

We recommend that you get a referral from your new PCP for 
physical therapy for your knee

We also performed an ultrasound of your heart which showed 
thickening and possibly increased fluid, called "diastolic heart 
failure."  Please follow up with your PCP about this.
 
Followup Instructions:
___